US07030267B2
To a solution of 1-(tert-butoxycarbonylamino-methyl)-spiro[2.5]octane-1-carboxylic acid (200 mg, 0.706 mmol) in 1,4-dioxane (3 mL) was added 4N HCl in 1,4-dioxane (3 mL). The reaction was stirred for 18 hours at room temperature. Ether (20 mL) was added and the precipitate was isolated by vacuum filtration. The solid was dried in a vacuum oven at 48° C. to give 133 mg (86%) of 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid hydrochloride as a white solid: mp 240–242° C.; 1H NMR (300 MHz, D2O) δ 0.92 (d, J=5.2 Hz, 1H), 1.40 (d, J=5.2 Hz, 1H), 1.4–1.6 (m, 10H), 3.12 (d, J=14.0 Hz, 1H), 3.61 (d, J=14.0 Hz, 1H); MS (APCI) m/z 184 [M+H]+. Anal. Calcd. For C10H17NO2—HCl: C, 54.67; H, 8.26; N, 6.38; Cl, 16.14. Found: C, 54.91; H, 8.36; N, 6.25; Cl, 15.99.

reactant | 1-(tert-butoxycarbonylamino-methyl)-spiro[2.5]octane-1-carboxylic acid | 0.706 mmol, 200 mg | C(C)(C)(C)OC(=O)NCC1(CC12CCCCC2)C(=O)O | C15H25NO4
reactant | HCl | 4N | Cl | ClH
reactant | Ether | 20 mL | CCOCC | C4H10O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1-aminomethyl-spiro[2.5]octane-1-carboxylic acid hydrochloride | 133 mg, 86% | Cl.NCC1(CC12CCCCC2)C(=O)O | InChI=1S/C10H17NO2.ClH/c11-7-10(8(12)13)6-9(10)4-2-1-3-5-9;/h1-7,11H2,(H,12,13);1H
